US07129238B2
A mixture of (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-3-hydroxy-4-methoxy-phenyl)-2-methoxy-acetamide (150 mg), phenyl boronic acid (58 mg), copper (II) acetate (79 mg), pyridine (0.18 ml) and activated molecular sieves (4 A) at rt in CH2Cl2 under an argon atmosphere was stirred for 24 h. More copper (II) acetate (40 mg), phenyl boronic acid (29 mg) and pyridine (0.9 ml) were added to the mixture and stirring was continued for 16 h. The mixture was filtered and the cake washed with 15 ml CH2Cl2. The filtrate was washed with 1.0 N HCl (25 ml), 1.0 N NaOH (25 ml) and brine (25 ml), dried (MgSO4), filtered and concentrated (rotavapor) to leave the crude product as a brown gum. The crude product was purified by flash chromatography (cyclohexane=5 cyclohexane/EtOAc 2:3) to give (RS)-N-(4-Cyano-benzyl)-2-(2-fluoro-4-methoxy-3-phenoxy-phenyl)-2-methoxy-acetamide (107 mg) as an off-white foam. MS 421.2 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-3-hydroxy-4-methoxy-phenyl)-2-methoxy-acetamide | 150 mg | C(#N)C1=CC=C(CNC(C(OC)C2=C(C(=C(C=C2)OC)O)F)=O)C=C1 | C18H17FN2O4
reactant | phenyl boronic acid | 58 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 0.18 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl boronic acid | 29 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 0.9 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 79 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper (II) acetate | 40 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (RS)-N-(4-Cyano-benzyl)-2-(2-fluoro-4-methoxy-3-phenoxy-phenyl)-2-methoxy-acetamide | 107 mg | C(#N)C1=CC=C(CNC(C(OC)C2=C(C(=C(C=C2)OC)OC2=CC=CC=C2)F)=O)C=C1 | C24H21FN2O4
